US05744475
Synthesis of 6-(1-pyrrolidinylmethyl)uracil
To a solution of 1.78 g of pyrrolidine in water (20 ml), 1.33 g of 6-chloromethyluracil were added. The resulting mixture was stirred at roomtemperature for 24 hours and neutralized with acetic acid. The reaction mixture was then concentrated under reduced pressure. The residue so obtained was washed with methanol and then filtered, whereby 466 mg of thetitle compound were obtained (yield: 29%).

reactant | pyrrolidine | 1.78 g | N1CCCC1 | C4H9N
reactant | 6-chloromethyluracil | 1.33 g | ClCC1=CC(NC(N1)=O)=O | C5H5ClN2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 6-(1-pyrrolidinylmethyl)uracil | 466 mg, yield: 29% | N1(CCCC1)CC1=CC(NC(N1)=O)=O | C9H13N3O2
